US08629157B2
Step 2: Synthesis of 4-chloro-N1-(tetrahydro-pyran-4-ylmethyl)-benzene-1,2-diamine
To a solution of (4-chloro-2-nitro-phenyl)-(tetrahydro-pyran-4-ylmethyl)-amine (1.28 g; 4.729 mmol) in tetrahydrofuran (25 mL) was added tin metal (1.740 g; 14.660 mmol) and 1N hydrochloric acid (32.157 mL; 32.157 mmol) and the reaction is stirred at room temperature overnight. After this time, the mixture is diluted with 1N sodium hydroxide solution (1.6 g NaOH/40 mL water; 40 mmol) and filtered through Celite®, washing with ethyl acetate. The filtrate is extracted with ethyl acetate and the combined organics are washed with water and brine, dried (Na2SO4), filtered and concentrated in vacuo to afford title compound which was used without further purification. ESI m/z 241 [M+H]+

reactant | (4-chloro-2-nitro-phenyl)-(tetrahydro-pyran-4-ylmethyl)-amine | 4.729 mmol, 1.28 g | ClC1=CC(=C(C=C1)NCC1CCOCC1)[N+](=O)[O-] | C12H15ClN2O3
reactant | tin | 14.660 mmol, 1.740 g | [Sn] | Sn
reactant | hydrochloric acid | 32.157 mmol, 1N, 32.157 mL | Cl | ClH
reactant | sodium hydroxide | 40 mmol, 1N, 40 mL, 1.6 g | [OH-].[Na+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 4-chloro-N1-(tetrahydro-pyran-4-ylmethyl)-benzene-1,2-diamine | ClC=1C=C(C(=CC1)NCC1CCOCC1)N | C12H17ClN2O
